US07612212B2
A hydrogenation vessel containing tert-butoxycarbonylamino-[4-((E)-2-methanesulfonyl-vinyl)-phenyl]-acetic acid benzyl ester (1.1 g, 2.5 mmol) in methanol/ethyl acetate (3:1, 50 ml) was purged with nitrogen and 10% palladium on carbon (200 mg) added. The atmosphere above the organic solution was exchanged for hydrogen and the reaction mixture stirred vigorously for 3 hours at ambient temperature. The reaction mixture was filtered through a pad of Celite and concentrated in vacuo to give tert-butoxycarbonylamino-[4-(2-methanesulfonyl-ethyl)-phenyl]-acetic acid (800 mg, 94%).

reactant | tert-butoxycarbonylamino-[4-((E)-2-methanesulfonyl-vinyl)-phenyl]-acetic acid benzyl ester | 2.5 mmol, 1.1 g | C(C1=CC=CC=C1)OC(C(C1=CC=C(C=C1)\C=C\S(=O)(=O)C)NC(=O)OC(C)(C)C)=O | C23H27NO6S
solvent | methanol ethyl acetate | 50 ml | CO.C(C)(=O)OCC
product | tert-butoxycarbonylamino-[4-(2-methanesulfonyl-ethyl)-phenyl]-acetic acid | 800 mg, 94% | C(C)(C)(C)OC(=O)NC(C(=O)O)C1=CC=C(C=C1)CCS(=O)(=O)C | C16H23NO6S
